US04032651
A mixture of a saturated aqueous solution (72 ml.) of potassium carbonate and a 12.5 M aqueous solution (10 ml.) of sodium hydroxide is added to an ice-cooled, vigorously stirred solution of 1-benzoylpentyl dimethylsulphonium tetrafluoroborate (36.0 g.) in chloroform (100 ml.) at such a rate that the temperature does not exceed 10° C. After the addition is complete, the mixture is allowed to warm up to 20° C. and is stirred at this temperature for 15 minutes. The mixture is then separated by filtration and the chloroform layer of the filtrate is dried (sodium sulphate) and evaporated to give an oily residue. Trituration of this residue with ether (5 ml.) gives crystalline α-dimethylsulphuranylidene-n-hexanophenone (4.0 g.), which is used as starting material immediately.

reactant | potassium carbonate | 72 ml | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-benzoylpentyl dimethylsulphonium tetrafluoroborate | 36.0 g | F[B-](F)(F)F.C(C1=CC=CC=C1)(=O)C(CCCC)[S+](C)C
reactant | ether | 5 ml | CCOCC | C4H10O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | α-dimethylsulphuranylidene-n-hexanophenone | 4.0 g | CS(=C(C(=O)C1=CC=CC=C1)CCCC)C | C14H20OS
